US04769466
To a stirred solution of 1-(2-pyridinyl)-2-phenylethylamine (8.55 g, 0.043 mol) in chloroform (200 ml) was added N-CBZ-glycine (9.50 g, 0.045 mol) and then a solution of dicyclohexylcarbodiimide (9.79 g, 0.047 mol) in chloroform (80 ml) and the mixture stirred for 64 hours at ambient temperature. The mixture was filtered, the solvent evaporated, the residue dissolved in ethyl acetate (300 ml) and filtered again. The filtrate was washed with a pH 11 sodium carbonate solution, the aqueous phase back extracted with ethyl acetate (3×200 ml), and the organic phases combined, dried and evaporated to an oil, 19.6 g. This was dissolved in methanol (225 ml) and 10% HCl (50 ml) and hydrogenated at 40 psi in a Parr apparatus over 2.6 g of 10% Pd/C catalyst for 16 hours. The catalyst was removed by filtration, the solvent evaporated and the residue dissolved in water (300 ml) and chloroform (300 ml). The mixture was basified to pH 10 with 2N sodium carbonate, saturated with NaCl, shaken and separated. The aqueous layer was extracted with chloroform (3×250 ml) and ethyl acetate (2×250 ml), and the combined organic phases and dried and evaporated to a yellow oily solid, 10.3 g. This was dissolved in 100 ml of methanol and 100 ml isopropanol, acidified with HCl gas. The solid was collected by filtration, recrystallized from absolute ethanol (100 ml), and vacuum dried at 80° C. for 3 days to provide 6.13 g of 2-amino-N-[1-(2-pyridinyl)-2-phenylethyl]acetamide dihydrochloride, mp 148°-151° C.

reactant | 1-(2-pyridinyl)-2-phenylethylamine | 0.043 mol, 8.55 g | N1=C(C=CC=C1)C(CC1=CC=CC=C1)N | C13H14N2
reactant | N-CBZ-glycine | 0.045 mol, 9.50 g | C(=O)(OCC1=CC=CC=C1)NCC(=O)O | C10H11NO4
reactant | dicyclohexylcarbodiimide | 0.047 mol, 9.79 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
reactant | chloroform | 80 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-amino-N-[1-(2-pyridinyl)-2-phenylethyl]acetamide dihydrochloride | 6.13 g | Cl.Cl.NCC(=O)NC(CC1=CC=CC=C1)C1=NC=CC=C1 | InChI=1S/C15H17N3O.2ClH/c16-11-15(19)18-14(13-8-4-5-9-17-13)10-12-6-2-1-3-7-12;;/h1-9,14H,10-11,16H2,(H,18,19);2*1H
